US05449686
4a. 3-Cyclopropylmethoxy-4-methoxybenzaldehyde
A vigorously stirred mixture of 3-hydroxy-4-methoxybenzaldehyde (20 g, 131 mmol), chloromethylcyclopropane (18.2 mL, 197 mmol) and powdered potassium carbonate (27.3 g, 197 mol) in dimethylflormamide (400 mL) was heated under an argon atmosphere at 80° C. for 9 h. The mixture was allowed to cool and was filtered through Celite. The filtrate was concentrated under reduced pressure, the residue was extracted twice with ethyl acetate, the organic extract was washed five times with saturated aqueous sodium carbonate and was dried (sodium sulfate). The solvent was removed in vacuo to provide an off-white solid (21.2 g, 78%): m.p. 67°-69° C.

reactant | 3-hydroxy-4-methoxybenzaldehyde | 131 mmol, 20 g | OC=1C=C(C=O)C=CC1OC | C8H8O3
reactant | chloromethylcyclopropane | 197 mmol, 18.2 mL | ClCC1CC1 | C4H7Cl
reactant | potassium carbonate | 197 mol, 27.3 g | C([O-])([O-])=O.[K+].[K+]
product | 3-Cyclopropylmethoxy-4-methoxybenzaldehyde | 21.2 g, 78% | C1(CC1)COC=1C=C(C=O)C=CC1OC | C12H14O3
